US05747621
To a solution of 2-phenyl-2-hydroxy-2,3-dihydro-1H-indene (6.88 g, 32.76 mmol) in THF (200 mL) was added a solution of concentrated hydrochloric acid (40 mL) in water (60 mL). The solution was stirred at room temperature for 3 day. Diethyl ether (200 mL) and water added. Aqueous layer was extracted with diethyl ether (3* 200 mL). All etheral layers were combined, washed with water (50 mL), brine (50 mL), dried over anhydrous magnesium sulphate, and concentrated to yield 5.60 g (92%) of 2-phenyl-1H-indene. 1H-N.M.R. (CDCl3) d 3.78 (t, J=0.8 Hz, 2H), d 7.18-7.48(m, 8H), d 7.63(br d, J=7.1 Hz, 2H).

reactant | 2-phenyl-2-hydroxy-2,3-dihydro-1H-indene | 32.76 mmol, 6.88 g | C1(=CC=CC=C1)C1(CC2=CC=CC=C2C1)O | C15H14O
reactant | hydrochloric acid | 40 mL | Cl | ClH
reactant | Diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | water | 60 mL | O | H2O
product | 2-phenyl-1H-indene | 5.60 g, 92% | C1(=CC=CC=C1)C=1CC2=CC=CC=C2C1 | C15H12
